US04343811
2-Methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]-propanol
A suspension of 1.0 g (2.6 m mole) of 2-methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid hydrochloride was added dropwise to 1.0 g (26 m mole) of lithiumaluminium hydride in 50 ml of absolute tetrahydrofurane under stirring. After the mixture was stirred for one hour at 60° C., 2 N sodium hydroxide solution was added. The sodium aluminate precipitate was filtered off, and the residue was evaporated and purified on silicagel by colunn chromatography (eluant: ethyl acetate).

reactant | 2-methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid hydrochloride | 1.0 g | Cl.CC(C(=O)O)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C)C1=CC=NC=C1
reactant | lithiumaluminium hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | 2-Methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]-propanol | CC(CO)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C)C1=CC=NC=C1 | C21H26N2O2
